US05128465
2-(5-Amino-1,2,4-Thiadiazol-3-yl)-(Z)-2-Fluoromethoxyiminoacetic Acid
To a mixture of a solution of fluoromethoxyamine (0.58 g) in ethanol (25 ml) and water (0.45 ml), 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-oxoacetic acid (1 g) was added. After adjusting the pH of the resulting mixture to 4-5 with a 10% aqueous solution of sodium hydroxide, the mixture was stirred overnight at room temperature. The solvent was distilled off under reduced pressure, water (20 ml) and sodium chloride (10 g) were added, and the pH of the solution was adjusted to 1 with concentrated hydrochloric acid. The solution was extracted four times with ethyl acetate (30 ml). After washing the extract with saturated saline, anhydrous magnesium sulfate was added to the extract to dry the same. The solvent was distilled off and the residue was crystallized from a 1:3 mixture of acetone and isopropyl ether, thereby obtaining the target product (0.38 g).

reactant | fluoromethoxyamine | 0.58 g | FCON | CH4FNO
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-oxoacetic acid | 1 g | NC1=NC(=NS1)C(C(=O)O)=O | C4H3N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 0.45 ml | O | H2O
product | 2-(5-Amino-1,2,4-Thiadiazol-3-yl)-(Z)-2-Fluoromethoxyiminoacetic Acid | 0.38 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OCF | C5H5FN4O3S
